US04081488
To a solution of 53.5 gm (0.5 mole) of isobutyryl chloride and 45 gm (0.27 mole) of ferric chloride in 50 ml of methylene chloride cooled to 50°, and maintained below 10°, was added, with stirring, 53.2 gm (0.55 mole) of vinylidene chloride over a 1 hour period. After the addition, the reaction mixture was allowed to warm to room temperature for 3 hours before being poured over 100 gm of crushed ice. The layers were separated, and the organic solution was washed three times with 50-ml portions of water before being dried over magnesium sulfate. After being filtered, the solution was diluted with 50 ml of methylene chloride. The diluted solution was washed twice with dilute aqueous potassium carbonate and then with water before being distilled under reduced pressure, yielding 1.4 gm of crude 1,1-dichloro-4-methyl-1-penten-3-one; b.p., 41°-62°/4.1-4.7mm. The presence of the dichloroketone was established by gas chromatographic analysis, complimented by the mass spectrum of the gc component believed to be the dichloroketone, the mass spectrum of which showed a parent peak at m/e 166 and a fragmentation pattern consistent with 1,1-dichloro-4-methyl-1-penten-3-one.

reactant | isobutyryl chloride | 0.5 mole, 53.5 gm | C(C(C)C)(=O)Cl | C4H7ClO
reactant | vinylidene chloride | 0.55 mole, 53.2 gm | C(=C)(Cl)Cl | C2H2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dichloro-4-methyl-1-penten-3-one | 1.4 gm | ClC(=CC(C(C)C)=O)Cl | C6H8Cl2O
